US04183932
The starting material may be prepared as follows: To a suspension of 5.5 g of 2,6-dichloro-4-phenylquinazoline in 70 ml of dimethylsulfoxide was added 4.2 g of 2,2-dimethoxyethylamine. The mixture was heated at 90°-100° C. for 1.5 hours with stirring. After cooling, the mixture was poured into 400 ml of ice-water. The resulting mixture was stirred with a small quantity of n-hexane, and the precipitate that formed was collected by filtration, washed with water and dried to give 6.9 g of 6-chloro-2-(2,2-dimethoxyethylamino)-4-phenylquinazoline. Recrystallization from ethanol gave yellow needles, m.p. 122.5°-123° C.

reactant | 2,6-dichloro-4-phenylquinazoline | 5.5 g | ClC1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)Cl | C14H8Cl2N2
reactant | 2,2-dimethoxyethylamine | 4.2 g | COC(CN)OC | C4H11NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 6-chloro-2-(2,2-dimethoxyethylamino)-4-phenylquinazoline | 6.9 g | ClC=1C=C2C(=NC(=NC2=CC1)NCC(OC)OC)C1=CC=CC=C1 | C18H18ClN3O2
